US08729263B2
To a solution of 2-(6-((3aR,6aS)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol (31.4 mg, 0.09 mmol), 2-((tert-butyldimethylsilyl)oxy)acetaldehyde (47.1 mg, 0.270 mmol), and sodium triacetoxyhydroborate (57.2 mg, 0.270 mmol) in CH2Cl2 (2 mL), was added acetic acid (0.013 mL, 0.225 mmol). The reaction mixture was stirred at RT overnight, then quenched with water and diluted with DCM. The organic layer was acidified with 1N HCl solution to pH˜3 and filtered to remove insoluble materials. The filtrate was loaded onto an SCX column, washed with MeOH, then eluted with 7N NH3 in MeOH. Concentration provided a brownish solid, 2-(6-((3a R,6aS)-5-(2-((tert-butyldimethylsilyl)oxy)ethyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol (23 mg, 0.020 mmol, 51% yield), MS (M+1)=507.1.

reactant | 2-(6-((3aR,6aS)-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol | 0.09 mmol, 31.4 mg | C1N(C[C@@H]2[C@H]1CNC2)C2=CC=C(N=N2)C2=C(C=C(C=C2)C=2C=NNC2)O | C19H20N6O
reactant | 2-((tert-butyldimethylsilyl)oxy)acetaldehyde | 0.270 mmol, 47.1 mg | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | sodium | [Na] | Na
reactant | acetic acid | 0.225 mmol, 0.013 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-((3a R,6aS)-5-(2-((tert-butyldimethylsilyl)oxy)ethyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)pyridazin-3-yl)-5-(1H-pyrazol-4-yl)phenol | 0.020 mmol, 23 mg, 51% yield | [Si](C)(C)(C(C)(C)C)OCCN1C[C@@H]2[C@H](C1)CN(C2)C2=CC=C(N=N2)C2=C(C=C(C=C2)C=2C=NNC2)O | C27H38N6O2Si
